US07981896B2
4-(5-Hydroxymethyl-3-methyl-pyrazol-1-yl)-phenol.
2-(4-Hydroxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (233 mg, 0.946 mmol) was dissolved in tetrahydrofuran (20 mL). Lithium aluminum hydride (1.42 mL, 1 M in THF, 1.42 mmol) was added, and the reaction was stirred overnight. The reaction was quenched with water and extracted with ethyl acetate. The ethyl acetate solution was dried (MgSO4) and concentrated to give the crude product in quantitative yield. LC-MS (C11H12N2O2 calculated 204) m/z 205 (M+H).

reactant | 2-(4-Hydroxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 0.946 mmol, 233 mg | C(C)OC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)O | C13H14N2O3
reactant | Lithium aluminum hydride | 1.42 mmol, 1 M, 1.42 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(5-Hydroxymethyl-3-methyl-pyrazol-1-yl)-phenol | quantitative yield | OCC1=CC(=NN1C1=CC=C(C=C1)O)C | C11H12N2O2
